US06656971B2
(3,5-diaminophenyl)(4-bromophenyl)amine.
To a solution of (3,5-dinitrophenyl) (4-bromophenyl)amine (0.34 g, 1.0 mmol) in ethanol (10 mL) was added indium (2.0 g, 17 mmol) followed by saturated ammonium chloride solution (3 mL) and the mixture stirred 12 h. At this time, TLC showed the reaction complete. The reaction mixture was then filtered through celite, concentrated and the residue dissolved in 50 mL CH2Cl2. The organic solution was washed with 50 mL water followed by 50 mL brine, dried over magnesium sulfate, filtered and concentrated to give 0.26 g (93%) of a brown oil, Rf 0.1 (1:1 hexane:ethyl acetate), which was carried directly to the next step.

reactant | (3,5-dinitrophenyl) (4-bromophenyl)amine | 1.0 mmol, 0.34 g | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])NC1=CC=C(C=C1)Br | C12H8BrN3O4
reactant | indium | 17 mmol, 2.0 g | [In] | In
reactant | ammonium chloride | 3 mL | [Cl-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (3,5-diaminophenyl)(4-bromophenyl)amine | 0.26 g, 93% | NC=1C=C(C=C(C1)N)NC1=CC=C(C=C1)Br | C12H12BrN3
